US06365599B1
4-Amino-6,7-dimethoxy-5-(2-pyrimidyl)-2-(5,6,7,8-tetrahydro-1,6-naphthyrid-6-yl)quinoline
4-Amino-6,7-dimethoxy-5-(2-pyrimidyl)-2-(5,6,7,8-tetrahydro-1,6-naphthyrid-6-yl)quinoline Potassium hydroxide powder (72 mg, 1.29 mmol) was added to a solution of the product of step (a) (530 mg, 1.28 mmol) in DMSO (5 ml). The reaction mixture was heated to 95° C. for 45 min. After cooling the reaction mixture was poured into citric acid and basified with 2N aqueous NaOH. The product was then extracted with EtOAc (×4). The combined organic layers were washed with H2O, saturated brine and dried over MgSO4. The product was purified on silica gel, eluting with CH2Cl2/MeOH/0.88NH3 (96/3.5/0.5, v/v). The product was triturated with ether to afford the title compound as an orange solid (91 mg, 17%). Rf 0.11 CH2Cl2/MeOH (95/5, v/v). MS m/z 415 (MH+) 1H NMR (CDCl3), δ: 3.10 (2H, t), 3.69 (314, s), 3.79 (2H, s), 4.00 (2H, m), 4.05 (3H, s), 4.82 (2H, s), 6.01 (1H, s), 7.05 (1H, m), 7.40 (1H, t), 7.50 (1H, m), 8.40 (1H, m), 8.90 (2H, m).

reactant | 4-Amino-6,7-dimethoxy-5-(2-pyrimidyl)-2-(5,6,7,8-tetrahydro-1,6-naphthyrid-6-yl)quinoline Potassium hydroxide | 1.29 mmol, 72 mg | [OH-].[K+].NC1=CC(=NC2=CC(=C(C(=C12)C1=NC=CC=N1)OC)OC)N1CC=2C=CC=NC2CC1
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | NaOH | 2N | [OH-].[Na+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 4-Amino-6,7-dimethoxy-5-(2-pyrimidyl)-2-(5,6,7,8-tetrahydro-1,6-naphthyrid-6-yl)quinoline | 91 mg, 17% | NC1=CC(=NC2=CC(=C(C(=C12)C1=NC=CC=N1)OC)OC)N1CC=2C=CC=NC2CC1 | C23H22N6O2
